US08309746B2
Synthesis of 3β-trimethylsilyloxy-androst-5-en-17-one (TMS-DHEA):
DHEA is combined with 1,1,1,3,3,3-hexamethyldisilazane (HMDS) and saccharin (as catalyst) in acetonitrile. The reaction mixture was heated to reflux for several hours with stirring under a nitrogen atmosphere. Liberated ammonia was purged under slight vacuum. The volume was then reduced by distillation, followed by cooling the mixture and collecting the precipitated product by filtration. The filter cake of TMS-DHEA product was washed with cold acetonitrile and dried with warm nitrogen to a loss on drying (LOD) of not more than 0.5% to provide approximately 90% isolated yield of the title compound.

reactant | DHEA | C[C@]12CC[C@H]3[C@H]([C@@H]1CCC2=O)CC=C4[C@@]3(CC[C@@H](C4)O)C | C19H28O2
reactant | 1,1,1,3,3,3-hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | saccharin | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
solvent | acetonitrile | C(C)#N | C2H3N
product | 3β-trimethylsilyloxy-androst-5-en-17-one | C[Si](O[C@@H]1CC2=CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)(C)C | C22H36O2Si
